US07863314B2
B. 3-[5-Amino-4-(2-chlorobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide
A solution of 2-(2-chlorobenzoyl)-3-phenylaminoacrylonitrile (93 mg, 0.33 mmol, 1.0 eq), N-cyclopropyl-3-hydrazino-4-methylbenzamide trifluoroacetate (104 mg, 0.33 mmol, 1 eq), and triethylamine (31 μL, 0.22 mmol, 1.0 eq) in 20 mL of ethanol was heated to 60° C. for 48h. After cooling, the mixture was concentrated and the residue was dissolved in minimal ethyl acetate. 100 ml diethyl ether was added and the precipitate was filtered and dried to provide desired product (50 mg, 39%). HPLC (4 minute 10-90 gradient) tR 2.51 min; MS m/z 395.1 [M+H]+; 1H NMR (DMSO), δ 8.50 (d, J=3.8 Hz, 1 H), 7.93 (d, J=8.0 Hz, 1 H), 7.84 (s, 1 H), 7.57 (m, 5H) 7.32 (s, 1 H), 7.01 (s, 2 H) 3.37 (m, 2 H), 2.86 (m, 1 H), 2.14 (s, 3 H), 1.09 (t, 2 H), 0.68 (m, 2 H), 0.58 (m, 2 H) ppm

reactant | 2-(2-chlorobenzoyl)-3-phenylaminoacrylonitrile | 0.33 mmol, 93 mg, 1.0 eq | ClC1=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC=C1 | C16H11ClN2O
reactant | N-cyclopropyl-3-hydrazino-4-methylbenzamide trifluoroacetate | 0.33 mmol, 104 mg, 1 eq | FC(C(=O)O)(F)F.C1(CC1)NC(C1=CC(=C(C=C1)C)NN)=O
reactant | triethylamine | 0.22 mmol, 31 μL, 1.0 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[5-Amino-4-(2-chlorobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | 50 mg, 39% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=C(C=CC=C1)Cl)=O | C21H19ClN4O2
